US06218404B1
4-Benzyl-1-(2,3-dihydroxypropyl)piperidine
2,2-Dimethyl-4-tosylmethyl-1,3-dioxolane. To a solution of solketal (2.00 mL, 16.0 mmol) in CH2Cl2 (50 mL) was added Et3N (4.50 mL, 32 mmol). A solution of p-toluensulfonyl chloride (4.30 g, 22 mmol) in CH2Cl2 (30 mL) was then added dropwise at 0° C. The resulting solution was stirred at 25° C. for 6 h, then. was diluted with CH2Cl2 (50 mL). This solution was washed with HCl (5%, 100 mL) and brine (100 mL), dried and concentrated in vacuo to afford the crude product. This was purified by flash-chromatography on silica gel using EtOAc/n-hexane as eluant to give the title compound as a colorless oil (2.03 g, 45%): 1H NMR (CDCl3) δ 1.31 (s, 3H), 1.34 (s, 3H), 2.45 (s, 3H), 3.77 (q, J=5.1 and 8.7 Hz, 1H), 3.90-4.10 (m, 3H), 4.28 (p, J=5.7 Hz, 1H), 7.35 (d, J=8.1 Hz, 2H), 7.80 (d, J=8.1 Hz, 2H);

reactant | 2,2-Dimethyl-4-tosylmethyl-1,3-dioxolane | CC1(OCC(O1)CS(=O)(=O)C1=CC=C(C)C=C1)C | C13H18O4S
reactant | solketal | 16.0 mmol, 2.00 mL | CC1(OCC(O1)CO)C | C6H12O3
reactant | Et3N | 32 mmol, 4.50 mL | CCN(CC)CC | C6H15N
reactant | p-toluensulfonyl chloride | 22 mmol, 4.30 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyl-1-(2,3-dihydroxypropyl)piperidine | 2.03 g, 45% | C(C1=CC=CC=C1)C1CCN(CC1)CC(CO)O | C15H23NO2
